* C:\Users\berto\NotSync\GitHub\Laboratorio_3\Esperienza_02\Circuiti\Circuito4_diff.asc
C2 0 N006 0.1µ
V3 0 N006 +15
V4 N001 0 +15
R1 V1 N003 10k
Rf OUT N003 68k
R50b V1 0 50
C1 N001 0 0.1µ
XU2 N004 N003 N001 N006 OUT level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
Rg V2 N005 50
R3 V2 N004 10k
Vg N005 0 SINE(0 1 200)
R50 V2 0 50
R4 N004 0 68k
V1 N002 0 PULSE(-2 2 0 1n 1n 0.01 0.02 100)
R2 V1 N002 50
.tran 25m
.lib UniversalOpamps2.sub
.backanno
.end
